US05587379
A stirred solution of 8.9 grams (0.028 mole) of ethyl 2-(3-undecylphenoxy)-3-oxopentanoate and 2.5 grams (0.028 mole) of guanidine carbonate in 30 mL of ethanol was heated at reflux for about 6 hours. The reaction mixture was then concentrated under reduced pressure to a residue. The residue was taken up in 50 mL of water and 5 mL of acetic acid, and the mixture was extracted with 50 mL of diethyl ether. The ether layer was extracted with 20 grams of aqueous 10% sodium hydroxide and then with 100 mL of water. The water extract was made acidic with acetic acid, and then it was extracted with 50 mL of diethyl ether. The ether extract was concentrated under reduced pressure to a residue. The residue was then taken up in 25 mL of heptane, and the mixture was again concentrated under reduced pressure to a residual solid. The solid was slurried in an additional 25 mL of heptane, and then it was collected by filtration. The solid was dried under reduced pressure, yielding 1.7 grams of 2-amino-6-ethyl-4-hydroxy-5-(3-undecylphenoxy)pyrimidine. The NMR spectrum was consistent with the proposed structure.

reactant | ethyl 2-(3-undecylphenoxy)-3-oxopentanoate | 0.028 mole, 8.9 grams | C(CCCCCCCCCC)C=1C=C(OC(C(=O)OCC)C(CC)=O)C=CC1 | C24H38O4
reactant | guanidine carbonate | 0.028 mole, 2.5 grams | C(O)(O)=O.NC(=N)N
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2-amino-6-ethyl-4-hydroxy-5-(3-undecylphenoxy)pyrimidine | 1.7 grams | NC1=NC(=C(C(=N1)O)OC1=CC(=CC=C1)CCCCCCCCCCC)CC | C23H35N3O2
